US07189851B2
C. Ethyl (9aS)-2[2-(4-fluorophenyl)ethyl]-4-(4-methylphenyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizine-3-carboxylate
To the flask containing crude diethyl 2-[(2S)-1-(tert-butoxycarbonyl)pyrrolidinyl]-6-[2-(4-fluorophenyl)ethyl]-4-(4-methylphenyl)-1,4-dihydro-3,5-pyridinedicarboxylate (B, 1.0 mmol), 14.2 ml premixed trifluoroacetic acid and dichloromethane (10 ml/4.2 ml) were added. The resulting mixture was stirred at room temperature for 20 minutes. The solvents were removed in vacuo. The resulting residue was dissolved in a 30 ml mixture of triethylamine and dichloromethane (10 ml/20 ml) and was stirred at room temperature for 2 hours. The reaction mixture was diluted with ethyl acetate and washed with water, brine subsequently. After removing the solvent, the residue was purified with flash chromatography. 125 mg of solid was obtained. 1H NMR (400 MHz, CDCl3) δ 7.22 (m, 4H), 7.18 (t, 2H), 6.95 (t, 2m), 4.64 (m, 1H), 4.02 (q, 2H), 3.70 (m, 1H) 3.35 (m, 1H), 3.15 (m, 2H), 3.05 (m, 2H), 2.42 (m, 1H), 2.35 (s, 3H), 2.30 (m, 2H), 1.38 (m, 1H) ppm. ESI-MS m/z 459 (M+H)+, 917 (2M+1)+.

reactant | diethyl 2-[(2S)-1-(tert-butoxycarbonyl)pyrrolidinyl]-6-[2-(4-fluorophenyl)ethyl]-4-(4-methylphenyl)-1,4-dihydro-3,5-pyridinedicarboxylate | 1.0 mmol | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C=1NC(=C(C(C1C(=O)OCC)C1=CC=C(C=C1)C)C(=O)OCC)CCC1=CC=C(C=C1)F | C35H43FN2O6
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Ethyl (9aS)-2[2-(4-fluorophenyl)ethyl]-4-(4-methylphenyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizine-3-carboxylate | 125 mg | FC1=CC=C(C=C1)CCC=1C(=C(C2=C([C@@H]3CCCN3C2=O)N1)C1=CC=C(C=C1)C)C(=O)OCC | C28H27FN2O3
